US08202858B2
4-(3-{4-[(4-Chloro-phenyl)-methyl-carbamoyl]-2-fluoro-phenoxy}-propyl)-piperazine-1-carboxylic Acid Tert-butyl Ester
PyBroP (606 mg, 1.3 mmol) was added to a solution of 4-[3-(4-carboxy-2-fluoro-phenoxy)-propyl]-piperazine-1-carboxylic acid tert-butyl ester from Example E39 (382 mg, 11.0 mmol) in dichloromethane (20 ml) and DIEA (to pH9). The mixture was stirred for 1 h at room temperature then (4-chloro-phenyl)-methyl amine (156 mg, 1.1 mmol) was added. The mixture was stirred for 2 days at room temperature then solvents were concentrated in vacuo. The residue was dissolved in EtOAC, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; EtOAc) to yield the title compound (210 mg, 41%).

reactant | PyBroP | 1.3 mmol, 606 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 4-[3-(4-carboxy-2-fluoro-phenoxy)-propyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)O)F | C19H27FN2O5
reactant | (4-chloro-phenyl)-methyl amine | 1.1 mmol, 156 mg | ClC1=CC=C(C=C1)NC | C7H8ClN
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | DIEA | pH9 | CCN(C(C)C)C(C)C | C8H19N
product | 4-(3-{4-[(4-Chloro-phenyl)-methyl-carbamoyl]-2-fluoro-phenoxy}-propyl)-piperazine-1-carboxylic Acid Tert-butyl Ester | 210 mg, 41% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(N(C)C1=CC=C(C=C1)Cl)=O)F | C26H33ClFN3O4
